US09062032B2
By using 300 mg of methyl 4-{2-[4-({[2-({3-[(cyclopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate and 289 mg of ethyl 4-bromobutyrate, the reaction similar to Preparation Example 30 was performed, thereby obtaining 201 mg of methyl 4-(2-{4-[({2-[(3-{[cyclopropyl(4-ethoxy-4-oxobutyl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate.

reactant | methyl 4-{2-[4-({[2-({3-[(cyclopropylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 300 mg | C1(CC1)NCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C36H37N3O4S
reactant | ethyl 4-bromobutyrate | 289 mg | BrCCCC(=O)OCC | C6H11BrO2
product | methyl 4-(2-{4-[({2-[(3-{[cyclopropyl(4-ethoxy-4-oxobutyl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 201 mg | C1(CC1)N(CCCC(=O)OCC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C42H47N3O6S
